US03968115
1-Methyl-4-(10,11-dihydro-10-hydroxy-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine
A solution of 3.0 g. (0.01 mole) of 1-methyl-4-(10,11-dihydro-10-oxo-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine (0.01 mole) in 200 ml. of dry ether is added dropwise in a dry inert atmosphere to a stirred suspension of 3.8 g. (0.1 mole) of lithium aluminum hydride. The reaction is then stirred overnight (20 hours) at room temperature under a dry inert atmosphere. Then there is added dropwise carefully with stirring 3 ml. of water followed by 3 ml. of 20% NaOH solution in water followed by 15 ml. of water. The ether solution of the product is decanted and the remaining salts washed with ether and decanted. the combined ether solutions of the product are dried over anhydrous MgSO4, filtered, and the ether evaporated on a rotary evaporator. This gives after one recrystallization from ethanol 1-methyl-4-(10,11-dihydro-10-hydroxy-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine, m.p. 205°-206°C.

reactant | 1-methyl-4-(10,11-dihydro-10-oxo-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine | 0.01 mole | CN1CCC(CC1)=C1C2=C(C(CC3=C1C=CC=C3)=O)C=CC=C2 | C21H21NO
reactant | ether | CCOCC | C4H10O
reactant | lithium aluminum hydride | 0.1 mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | 1-Methyl-4-(10,11-dihydro-10-hydroxy-5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidine | CN1CCC(CC1)=C1C2=C(C(CC3=C1C=CC=C3)O)C=CC=C2 | C21H23NO
